US04931436
5,11-Dihydro-11-[[3-[2-(1-pyrrolidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride
Prepared analogously to Example 1 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 3-[2-(1-pyrrolidinyl)ethyl]piperidine in a yield of 58% of theory. Colourless crystals, Rf 0.25 (Merck DC ready made TLC plates, silica gel 60 F254 ; eluant: dichloromethane/methanol/conc. ammonia 90/10/1, v/v/v).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | 3-[2-(1-pyrrolidinyl)ethyl]piperidine | N1(CCCC1)CCC1CNCCC1 | C11H22N2
solvent | dichloromethane methanol | ClCCl.CO
product | 5,11-Dihydro-11-[[3-[2-(1-pyrrolidinyl)ethyl]-1-piperidinyl]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one-hydrochloride | yield of 58% | Cl.N1(CCCC1)CCC1CN(CCC1)C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | InChI=1S/C24H29N5O2.ClH/c30-23-19-8-1-2-10-21(19)29(22-20(26-23)9-5-12-25-22)24(31)28-15-6-7-18(17-28)11-16-27-13-3-4-14-27;/h1-2,5,8-10,12,18H,3-4,6-7,11,13-17H2,(H,26,30);1H
